US08877780B2
A stirred mixture of 6-ethoxy-pyridazine-3-carboxylic acid (0.23 g, 1.40 mmol) and CDI (0.24 g, 1.50 mmol) in N,N-dimethylformamide (10 mL) was heated to 40° C. under nitrogen. After 1 h, 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate (0.5 g, 1.40 mmol) was added and the mixture was heated at 50° C. for 1.5 h. Water (20 mL) was added and the solids were isolated by filtration. The product was triturated in EtOAc (20 mL) for 18 h, then filtered and dried in vacuo to give 6-ethoxy-pyridazine-3-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide as a white solid (0.48 g, 84% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 to 90/10 CH3CN/0.1% H3PO4 gradient over 15 mins, 7.15 min (97.48%); mp: 243-245° C.; 1H NMR (DMSO-d6) δ 1.41 (t, J=7.0 Hz, 3H, CH3), 1.86-2.11 (m, 1H, CHH), 2.24-2.47 (m, 1H, CHH), 2.59 (d, J=16.8 Hz, 1H, CHH), 2.79-3.04 (m, 1H, CHH), 4.30 (d, J=17.4 Hz, 1H, CHH), 4.44 (d, J=17.4 Hz, 1H, CHH), 4.51-4.76 (m, 4H, CH2, CH2), 5.10 (dd, J=4.9, 13.2 Hz, 1H, CH), 7.35 (d, J=9.3 Hz, 1H, Ar), 7.49 (d, J=7.9 Hz, 1H, Ar), 7.56 (s, 1H, Ar), 7.69 (d, J=7.7 Hz, 1H, Ar), 8.09 (d, J=9.1 Hz, 1H, Ar), 9.73 (t, J=6.2 Hz, 1H, NH), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 14.28, 22.49, 31.18, 42.52, 47.10, 51.56, 63.44, 117.87, 122.14, 122.91, 127.15, 128.80, 130.38, 142.33, 143.63, 149.23, 162.74, 165.80, 167.90, 170.98, 172.85; LCMS: MH=424; Anal Calcd for C21H21N5O5: C, 59.57; H, 5.00; N, 16.54. Found: C, 59.26; H, 4.95; N, 16.53.

reactant | 6-ethoxy-pyridazine-3-carboxylic acid | 1.40 mmol, 0.23 g | C(C)OC1=CC=C(N=N1)C(=O)O | C7H8N2O3
reactant | CDI | 1.50 mmol, 0.24 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate | 1.40 mmol, 0.5 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | Water | 20 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-ethoxy-pyridazine-3-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide | 0.48 g, 84% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(=O)C=1N=NC(=CC1)OCC)=O)=O | C21H21N5O5
